US09284306B2
2E. (R)-3-Amino-5-(methylthiomethyl)oxazolidin-2-one hydrochloride
To a solution of (R)-tert-butyl 5-(methylthiomethyl)-2-oxooxazolidin-3-ylcarbamate (429 mg, 1.63 mmol) in THF (3 mL), a solution of 4M HCl in dioxane (1.022 mL, 4.09 mmol) was added. The reaction was stirred at room temperature overnight under nitrogen. Conversion was complete. The title compound, precipitated as a white solid, was filtered, washed with diisopropyl ether and dried under vacuum, (260 mg, 1.31 mmol). Yield=80%.

reactant | (R)-tert-butyl 5-(methylthiomethyl)-2-oxooxazolidin-3-ylcarbamate | 1.63 mmol, 429 mg | CSC[C@H]1CN(C(O1)=O)NC(OC(C)(C)C)=O | C10H18N2O4S
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 4.09 mmol, 1.022 mL | O1CCOCC1 | C4H8O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (R)-3-Amino-5-(methylthiomethyl)oxazolidin-2-one hydrochloride | Yield=80% | Cl.NN1C(O[C@H](C1)CSC)=O | InChI=1S/C5H10N2O2S.ClH/c1-10-3-4-2-7(6)5(8)9-4;/h4H,2-3,6H2,1H3;1H/t4-;/m1./s1
